US05114936
To a solution consisting of 3-phenyl-5-(2-tosyloxyethyl)-4-hydroxy-4,5,6,7-tetrahydro-1,2-benzisoxazole (8.0 g) and DMF (100 ml) was added diisopropylethyl amine (6.7 ml) and 4-(4-fluorobenzoyl)piperidine hydrochloride (7.1 g) at room temperature with stirring. The flask was flushed with nitrogen and warmed to 80° C. for 4.5 hours. Upon cooling to room temperature, water and ethyl acetate were added to the reaction mixture. The layers were separated and the aqueous phase was extracted 3 times with ethyl acetate. The combined organic layers were washed with brine and dried (MgSO4). Filtration and concentration gave the crude product. Purification via flash column chromatography (silica gel, 2% triethylamine/ether) afforded 1.3 g of 5-[2-(4-(4-fluorobenzoyl)-1-piperidinyl)-ethyl]-3-phenyl-4-hydroxy-4,5,6,7-tetrahydro-1,2-benzisoxazole.

reactant | 3-phenyl-5-(2-tosyloxyethyl)-4-hydroxy-4,5,6,7-tetrahydro-1,2-benzisoxazole | 8.0 g | C1(=CC=CC=C1)C1=NOC2=C1C(C(CC2)CCOS(=O)(=O)C2=CC=C(C)C=C2)O | C22H23NO5S
reactant | diisopropylethyl amine | 6.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(4-fluorobenzoyl)piperidine hydrochloride | 7.1 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 5-[2-(4-(4-fluorobenzoyl)-1-piperidinyl)-ethyl]-3-phenyl-4-hydroxy-4,5,6,7-tetrahydro-1,2-benzisoxazole | 1.3 g | FC1=CC=C(C(=O)C2CCN(CC2)CCC2CCC3=C(C(=NO3)C3=CC=CC=C3)C2O)C=C1 | C27H29FN2O3
